* Z:\home\sbecht\ultra-efficient-adc\biasLVS.asc
M1 0 N002 Cascode 0 nfet l=3.9u w=2.1u
M2 Bias N002 0 0 nfet l=8.1u w=.9u
M3 Cascode Cascode N001 Vdd pfet l=3.9u w=8.1u
M4 N001 Bias Bias Vdd pfet l=.9u w=8.1u
M5 N001 Bias Vdd Vdd pfet l=3.9u w=8.1u
M6 N004 N002 0 0 nfet l=3.9u w=2.1u
M7 N004 N002 N002 0 nfet l=3.9u w=8.1u
M8 N002 Bias Vdd Vdd pfet l=3.9u w=1.8u
M9 N003 N003 N004 0 nfet l=3.9u w=2.1u
M10 Vdd Bias N003 Vdd pfet l=3.9u w=8.1u
M11 Vdd Vdd N001 Vdd pfet l=3.9u w=8.1u
M12 Vdd Vdd Cascode Vdd pfet l=3.9u w=8.1u
M13 Cascode 0 0 0 nfet l=3.9u w=2.1u
.backanno
.end
